US08420655B2
N1-tert-Butyl-4-(5-methoxy-pyridin-3-yl)-benzene-1,2-diamine (0.630 g, 2.32 mmol) is dissolved in DMF (5 mL) and water (1 mL). To this solution is added 3-formyl-benzonitrile (0.315 g, 2.40 mmol), followed by Oxone (1.54 g, 2.50 mmol). This reaction mixture is sonicated at room temperature for 1 hour. The solvent is removed in vacuum. The residue is partitioned between EtOAc (3×10 mL) and saturated sodium bicarbonate solution (10 mL). The organic layer is washed with brine, dried over sodium sulfate and is filtered. The filtrate is concentrated and the residue is purified by flash chromatography (40 g silica gel, eluted with 0-100% EtOAc in hexane) to give 3-[1-tert-butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-benzonitrile (0.575 g, 65%) as a white solid.

reactant | N1-tert-Butyl-4-(5-methoxy-pyridin-3-yl)-benzene-1,2-diamine | 2.32 mmol, 0.630 g | C(C)(C)(C)NC=1C(=CC(=CC1)C=1C=NC=C(C1)OC)N | C16H21N3O
reactant | 3-formyl-benzonitrile | 2.40 mmol, 0.315 g | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
reactant | Oxone | 2.50 mmol, 1.54 g | OOS(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 3-[1-tert-butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-benzonitrile | 0.575 g, 65% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC=C(C2)OC)C=2C=C(C#N)C=CC2 | C24H22N4O
